US05028606
A mixture of 5 parts of 6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinoxalinone, 3.3 parts of sodium hydroxide and 30 parts of water was stirred for 1 hour at room temperature. 5 Parts of hydroxylamine-O-sulfonic acid were added and the reaction mixture was stirred for 4 hours at 20° C. The product was extracted with dichloromethane (3×65 parts). The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 1,1'-oxybisethane. The product was filtered off and dried, yielding 2 parts (38.2%) of 1-amino-6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinoxalinone; mp. 192.8° C. (comp. 85).

reactant | 6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinoxalinone | N1(C=NC=C1)C(C=1C=C2N=C(C(NC2=CC1)=O)C)C1=CC=CC=C1 | C19H16N4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | NOS(=O)(=O)O | H3NO4S
solvent | water | O | H2O
product | 1-amino-6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinoxalinone | 38.2% | NN1C(C(=NC2=CC(=CC=C12)C(C1=CC=CC=C1)N1C=NC=C1)C)=O | C19H17N5O
